US08809525B2
6-[4-Fluoro-3-(trifluoromethyl)phenoxy]-5-phenyl-1,2,4-triazin-3-amine (198 mg, 36%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.40 g, 1.59 mmol) and 4-fluoro-3-(trifluoromethyl)phenol (0.57 g, 3.18 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.59 mmol, 0.40 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 4-fluoro-3-(trifluoromethyl)phenol | 3.18 mmol, 0.57 g | FC1=C(C=C(C=C1)O)C(F)(F)F | C7H4F4O
product | 6-[4-Fluoro-3-(trifluoromethyl)phenoxy]-5-phenyl-1,2,4-triazin-3-amine | 198 mg, 36% | FC1=C(C=C(OC2=C(N=C(N=N2)N)C2=CC=CC=C2)C=C1)C(F)(F)F | C16H10F4N4O
